US06800629B2
In 4 mL of methanol was dissolved 0.37 g of [(2R,3R,4R,5R)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-3,4-bis(benzoyloxy)tetrahydro-2-furanyl]methyl benzoate. While cooling the solution with ice, gaseous ammonia was introduced until saturation. The reaction mixture was stirred at room temperature for 15 hours, and the solvent was removed under reduced pressure. Methanol was added to the residue, and the precipitate was collected by filtration to obtain 0.12 g of 4-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide as a light brown-colored solid product.

reactant | [(2R,3R,4R,5R)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-3,4-bis(benzoyloxy)tetrahydro-2-furanyl]methyl benzoate | 0.37 g | C(C1=CC=CC=C1)(=O)OC[C@H]1O[C@H]([C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)N1C(C(=NC=C1)C(=O)N)=O | C31H25N3O9
reactant | ammonia | N | H3N
solvent | methanol | 4 mL | CO | CH4O
product | 4-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide | 0.12 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(C(=NC=C1)C(=O)N)=O | C10H13N3O6
